US09107916B2
A. 2-[5-[(4-fluorophenyl)methoxy]-4-(2-hydroxyethyl)pyrazol-1-yl]pyridine-4-carbonitrile
To a mixture of 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile (60 mg, 0.13 mmol, PREPARATION 8) in THF (5 mL) was added 3N HCl (1 mL) at 0° C. The reaction mixture was stirred for 2 h at r.t. Cooled to 0° C., added ethyl acetate, water and acidified with NaHCO3 to pH=8, and the mixture was then extracted with ethyl acetate and concentrated to afford the title compound (40 mg, 91%). [M+H] Calc'd for C18H15FN4O2, 339. Found, 339.

reactant | 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | 0.13 mmol, 60 mg | [Si](C)(C)(C(C)(C)C)OCCC=1C=NN(C1OCC1=CC=C(C=C1)F)C1=NC=CC(=C1)C#N | C24H29FN4O2Si
reactant | HCl | 3N, 1 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[5-[(4-fluorophenyl)methoxy]-4-(2-hydroxyethyl)pyrazol-1-yl]pyridine-4-carbonitrile | 40 mg, 91% | FC1=CC=C(C=C1)COC1=C(C=NN1C1=NC=CC(=C1)C#N)CCO | C18H15FN4O2
